US07727979B2
2-chloro-6-phenyl-cyclohexanone (Starting Product for Example C-22)
The chlorination of 2-phenylcyclohexanone takes place in a manner similar to that described above for the preparation of 2-tert-butyl-6-chloro-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 2-phenylcyclohexanone | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | 2-tert-butyl-6-chloro-cyclohexanone | C(C)(C)(C)C1C(C(CCC1)Cl)=O | C10H17ClO
product | 2-chloro-6-phenyl-cyclohexanone | ClC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13ClO
